datasets/10k__Tet_Int.csv
SMILES Labelled
"CC[NH+:21]=[C:20]2[O]C(C)C(C8=CC=CC=C8)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]CC)[O]C(C)C(C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[O-:21][C:20]1([H])C([H])C(C)C(C)C(CCC)[O:10]1>>[O-:10]C(CCC)C(C)C(C)C([H])[C:20]([H])=[O:21] 21=20;20,10=10"
"[O-:21][C:20]1(OCC)[O+:10]([Na])C(CCC)C(C)C1C>>[O:10]([Na])C(CCC)C(C)C([C:20](OCC)=[O:21])C 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1C)([O-:10])[O:21]CC)CC)C>>[H]C1C(C(O[C:20](=[O:10])N1C)CC)C.[O-:21]CC 10=20;20,21=21"
"[H][O+:10](C([H])C([H])C(CC)[O]1)[C:20]1([O:21]C)[S]C.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(CC)[O][C:20]([S]C)=[O+:21]C 21=20;20,10=10"
"[H][NH:10]C(C)C([H])[O][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C 10=20;20,21=21"
"CCN([C:20]([O-:10])(OC1=CC=CC=C1)[O:21]C)CC>>CCN([C:20](=[O:10])OC1=CC=CC=C1)CC.[O-:21]C 10=20;20,21=21"
"[H][S:10]C(CC)C(CC)[S][C:20]([O]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(CC)C(CC)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C(C8=CC=CC=C8)[O][C:20]([S]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"[OH:10]C(CC)C(C)C([H])C([H])[C:20](OCC)=[OH+:21]>>[OH:21][C:20]1(OCC)C([H])C([H])C(C)C(CC)[OH+:10]1 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1CC)CCCCCC)CC.[O-:21]C>>CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[O:21]C)CCCCCC)CC 21=20;20,10=10"
"[H][O:10]C(C)C(C)C([H])[S][C:20]([O][H])=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C([H])[S]1)[C:20]1([O:21]C)[O][H] 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C)[S]1)[C:20]1([O:21]C)[S]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)[S][C:20]([S]C)=[O+:21]C 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(CC)[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OCC)[NH+:10]([H])C([H])C([H])N1[H]>>[NH:10]([H])C([H])C([H])N([C:20](OCC)=[O:21])[H] 21=20;20,10=10"
"[H]N([C:20]1(OC(C(C([O:21]1)CC)[H])C)[O-:10])CC>>[H]N([C:20](=[O:10])OC(C(C([O-:21])CC)[H])C)CC 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(CC)[NH][C:20]([O]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(CC)[NH]1)[C:20]1([NH:21][H])[O]C 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[O]C(C)C([H])[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O]C(C)C([H])[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[O:10]([K])C(CCC)/C(O)=C([C:20](OC)=[O:21])/O>>[O-:21][C:20]1(OC)[O+:10]([K])C(CCC)C(O)=C1O 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)C1=CC=CC=C1)CCCCCC>>[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)C1=CC=CC=C1)CCCCCC.[O-:21]CCCCCC 10=20;20,21=21"
"[H][O+:10](C([H])C([H])C(CC)[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(CC)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"[NH:10]([H])C(CC)C([H])/C([H])=C(C)\[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)=C([H])C([H])C(CC)[NH+:10]1([H]) 10=20;20,21=21"
"[H][NH+:10](C(C)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)C(C8=CC=CC=C8)[O][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][S:10]C(C)C(C)C(CC)[S][C:20]([O]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C)C(C)C(CC)[S]1)[C:20]1([O:21]C)[O]CC 10=20;20,21=21"
"C[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C([H])C(C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[O]C([H])C(C8=CC=CC=C8)[S]2.C[S:10][H] 21=20;20,10=10"
"CC[S+:10]([H])[C:20]1([O:21]C)[S][CH](C)C(C)[CH](C)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](C)[CH](C)C(C)[O]2.CC[S:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH](C)[CH](C)C([H])[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C)C(C)[CH]([H])[NH]1 10=20;20,21=21"
"[H][O:10]C([H])C(C)C([H])[O][C:20]([O]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C([H])[O]1)[C:20]1([O:21][H])[O]CC 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C(C)[CH](C)[NH]1 10=20;20,21=21"
"CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)CC)C>>CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC)C.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[OH:21][C:20]1(OC)C(C)C([H])C([H])C(C)[OH+:10]1>>[OH:10]C(C)C([H])C([H])C(C)[C:20](OC)=[OH+:21] 21=20;20,10=10"
"C[O+:10]([H])[C:20]([NH:21][H])([O][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C[O:10][H].[H][NH+:21]=[C:20]([O][H])[O]C7=CC=CC=C7 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])CC)CCCCCC>>CN([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])CC)[O-:10])CCCCCC 21=20;20,10=10"
"[H][S+:10](C(C9=CC=CC=C9)C([H])[S]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C([H])[S][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1[H])OC)C)CC>>C(C([O-:21])[H])(C(O[C:20](=[O:10])OC)C)CC 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C(C)=C(C)C(C)C([H])[O+:10]1([Na])>>[O:10]([Na])C([H])C(C)/C(C)=C(C)\[C:20](OCC)=[O:21] 21=20;20,10=10"
